US07488825B2
Irinotecan was suspended in acetonitrile or acetone in accordance with the amounts shown in Table 1 and dissolved by adding, 6 mol/L hydrochloric acid. To each mixture solution, 1 mg of c-type crystals separately prepared was added and the solution was stirred at 22° C. for 25 to 46 hours. The formed crystals were obtained by filtration, dried under reduced pressure, and subjected to a moisture absorption process performed by a saturated aqueous sodium chloride solution method until the crystals showed constant weight (about 80 hours). In this manner, the crystals of irinotecan hydrochloride were obtained.

reactant | Irinotecan | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | C33H38N4O6
reactant | acetone | CC(=O)C | C3H6O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | irinotecan hydrochloride | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7.Cl | InChI=1S/C33H38N4O6.ClH/c1-3-22-23-16-21(43-32(40)36-14-10-20(11-15-36)35-12-6-5-7-13-35)8-9-27(23)34-29-24(22)18-37-28(29)17-26-25(30(37)38)19-42-31(39)33(26,41)4-2;/h8-9,16-17,20,41H,3-7,10-15,18-19H2,1-2H3;1H/t33-;/m0./s1
